Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
peanuts / Shellfish / Latex / fruits / mildew, feathers, roaches
 
Attending: ___
 
Chief Complaint:
Abnormal uterine bleeding, excessive and irregular bleeding.

 
Major Surgical or Invasive Procedure:
total laparoscopic hysterectomy, bilateral salpingectomy

 
History of Present Illness:
This is a ___ gravida 4,
para ___, last menstrual period uncertain, question ___.  This patient has had abnormal uterine bleeding for
several years dating back to the operative procedure she had 
with
me on ___ when I did a hysteroscopy D&C, NovaSure
ablation for menorrhagia.  The patient had some relief; however,
began abnormal bleeding again.  ___ IUD was placed on ___ after an endometrial biopsy.  The biopsy showed benign
findings; however, the patient continued bleeding pretty much
daily from the placement of Mirena was removed on ___, patient stopped bleeding on ___.  She had
bleeding like a normal period that began on ___,
and lasted approximately four days.  

Patient re-presents today with continued abnormal uterine
bleeding and after considering her therapeutic options, is
requesting definitive therapy in the form of a hysterectomy.

___ u/s ==> uterus is anteverted and measures 11.8 x 4.0 x 
6.6
cm. The endometrium  cannot be adequately assessed due to
distortion of the cavity by fibroids.   There are multiple
intramural fibroids.  A submucosal fibroid in the 
midportion of the uterine body causing distortion of the
endometrial cavity is  slightly smaller, now measuring 2.7 x 2.9
x 2.7 cm and previously measuring  3.0 x 2.8 x 3.0 cm.  There 
has
been interval removal of the intrauterine device. Normal right
ovary.  Left ovary is not visualized.  There is no free fluid. 
  
___ embx ==> benign

 
Past Medical History:
OB/GYN HISTORY:  Menarche at 12.  Long history of abnormal
uterine bkeeding. She does not have postcoital bleeding; but 
does
she have dysmenorrhea.  

She denies any history of abnormal Pap smears.  Her last pap
smear was ___ which was negative and her HR HPV was 
negative.

 
She has a history of abnormal mammogram. Per patient reporting,
her repeat mammograms have been normal.  

She has had four pregnancies, three daughters at term.  The 
first
was at term weighed in at 7 pounds and was a
vaginal birth.  Second daughter was ___ pounds, a term vaginal
birth, and her third daughter was ___ pounds, delivered by
cesarean delivery at 41 weeks with tubal ligation. Hx of Sab x 
1.
MEDICAL HX:
ALLERGIC URTICARIA                                              
FIBROID UTERUS                                                  
OVARIAN CYSTS                                                    
       
ALLERGIC RHINITIS                                               
SINUSITIS                                                       
OPERATIVE HX:
PRIOR CESAREAN SECTION                                          
BILATERAL TUBAL LIGATION                                        
HYSTEROSCOPY                                                    
ENDOMETRIAL ABLATION                                            
BLADDER SUSPENSION    
SINUS SURGERY     

 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
N/A
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing total laparoscopic hysterectomy and bilateral 
salpingectomy for symptomatic fibroid uterus. Please see the 
operative report for full details.
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV toradol and IV 
dilaudid.
On post-operative day 1, her urine output was adequate so her 
foley was removed and she voided spontaneously. Her diet was 
advanced without difficulty and she was transitioned to PO 
oxycodone, Tylenol, and ibuprofen.
By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 
2. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
Do not exceed 4000 mg in 24 hours 
RX *acetaminophen [Pain Reliever] 500 mg ___ capsule(s) by mouth 
every six (6) hours Disp #*50 Capsule Refills:*1 
2.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*3 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
Take with food to prevent GI upset 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
___ cause drowsiness, do not drive while taking 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
5.  Cetirizine 10 mg PO DAILY  
6.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fibroid uterus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___